US08802679B2
To a mixture of 2-(methylamino)ethanol (41 mg), sodium triacetoxyborohydride (166 mg), acetic acid (9 mg), and dichloromethane (4 ml) was added tert-butyl (2-{[(4′-formylbiphenyl-3-yl)methyl](methyl)amino}-2-oxoethyl)carbamate (200 mg), followed by stirring for 5 hours. To the reaction mixture was added CHCl3-saturated aqueous sodium hydrogen carbonate solution, the organic layer was dried over Na2SO4, and then the solvent was evaporated. The obtained residue was purified by silica gel column chromatography (3% MeOH/chloroform) to obtain tert-butyl (2-{[(4′-{[(2-hydroxyethyl)(methyl)amino]methyl}biphenyl-3-yl)methyl](methyl)amino}-2-oxoethyl)carbamate (230 mg) as a colorless oil.

reactant | 2-(methylamino)ethanol | 41 mg | CNCCO | C3H9NO
reactant | sodium triacetoxyborohydride | 166 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 9 mg | C(C)(=O)O | C2H4O2
reactant | tert-butyl (2-{[(4′-formylbiphenyl-3-yl)methyl](methyl)amino}-2-oxoethyl)carbamate | 200 mg | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C22H26N2O4
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | tert-butyl (2-{[(4′-{[(2-hydroxyethyl)(methyl)amino]methyl}biphenyl-3-yl)methyl](methyl)amino}-2-oxoethyl)carbamate | 230 mg | OCCN(C)CC1=CC=C(C=C1)C1=CC(=CC=C1)CN(C(CNC(OC(C)(C)C)=O)=O)C | C25H35N3O4
